US05686486
1-Phenyl-1-butanol
To a stirring solution of 890 mg of commercially available butyrophenone in 30 mL of diethyl ether under an argon atmosphere at 0° C. is slowly added 250 mg of lithium aluminum hydride in portions. After 2 hours the grey suspension is slowly treated with 0.25 mL of water followed by 1.10 mL of 1N sodium hydroxide. After 0.5 hours the resulting whim precipitant is filtered through a pad of magnesium sulfate with diethyl ether washings. The filtrate is concentrated under reduced pressure to afford 0.90 g of the title product as a clear, colorless oil. This product may be used directly in the next reaction without further purification.

reactant | butyrophenone | C(CCC)(=O)C1=CC=CC=C1 | C10H12O
reactant | lithium aluminum hydride | 250 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.25 mL | O | H2O
reactant | sodium hydroxide | 1N, 1.10 mL | [OH-].[Na+]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 1-Phenyl-1-butanol | 0.90 g | C1(=CC=CC=C1)C(CCC)O | C10H14O
